US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-methoxyphenoxy)ethyl]amide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18) and 2-(4-methoxyphenoxy)ethylamine. The product was purified by chromatography on silica gel eluting with methanol/dichloromethane (3:97) to give the title compound as a yellow solid. δH (CD3OD): 3.71 (3H, s), 3.77 (2H, t), 4.12 (2H, t), 6.81–6.91 (4H, m), 7.09 (1H, s), 7.67 (1H, s), 8.58 (1H, s); m/z (ES+)=346 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-(4-methoxyphenoxy)ethylamine | COC1=CC=C(OCCN)C=C1 | C9H13NO2
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-methoxyphenoxy)ethyl]amide | COC1=CC=C(OCCNC(=O)C2=CC=3C(=CN=C(C3)Cl)N2)C=C1 | C17H16ClN3O3
